### PR TITLE
[Merged by Bors] - feat(Algebra): additive `n`-torsion subgroups

### PR DESCRIPTION
**Pull request by wupr**
For an `AddCommGroup` `A` and an integer `n`,
- Define `AddSubgroup.torsionBy A n` using `Submodule.torsionBy`;
- Define a scoped notation `A[n]`.

Additionally, for a natural number `n`,
- Equip `A[n]` with a `ZMod n`-module structure.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by wupr** [comment]
Something I'm not sure about: is there a better alternative to `notation:max` in the following line?
```
scoped notation:max A"["n"]" => torsionBy A n
```

File: Mathlib/Algebra/Module/Torsion.lean [hunk 1]
```diff
@@ -873,3 +873,42 @@ theorem isTorsion_iff_isTorsion_int [AddCommGroup M] :
...
+@[simp]
+lemma nsmul_torsionBy (x : A[n]) : n • x = 0 :=
+  ZeroMemClass.coe_eq_zero.mp <| (mem_torsionBy _).mp x.property
+
+lemma mod_nsmul_torsionBy_eq_nsmul (m : A[n]) (s : ℕ) :
+    (s % n) • m = s • m := by
+  nth_rewrite 2 [← Nat.div_add_mod s n]
+  rw [add_smul, self_eq_add_left, mul_comm, mul_smul, nsmul_torsionBy, smul_zero]
+
+instance moduleZModTorsionBy [Fact (1 < n)] : Module (ZMod n) A[n] where
```
Comment (kbuzzard) [inline Mathlib/Algebra/Module/Torsion.lean:901]: Surely this proof works for 0 < n? And things are also fine for n = 0 but in that case you probably need a different construction.

I am a little unclear about whether introducing `Fact`s is in general a good idea, and whether instead this should just be a def.

Comment (wupr) [reply Mathlib/Algebra/Module/Torsion.lean:899]: Yes, I can make it work for n =1, but will require a different argument for `one_smul`. But I've just noticed (`AddCommGroup.zmodModule`)[https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/ZMod/Module.html#AddCommGroup.zmodModule], so I'll just use that instead. Whether this should be a def or instance, I'm not sure.

File: Mathlib/Algebra/Module/Torsion.lean [hunk 2]
```diff
@@ -871,3 +868,33 @@ theorem isTorsion_iff_isTorsion_int [AddCommGroup M] :
...
+namespace AddSubgroup
+
+variable (A : Type*) [AddCommGroup A] (n : ℕ)
+
+/-- The additive `n`-torsion subgroup for `n` in `ℕ`. -/
+@[reducible]
+def torsionBy := (Submodule.torsionBy ℤ A n).toAddSubgroup
+
+@[inherit_doc]
+scoped notation:max A"["n"]" => torsionBy A n
```
Comment (kbuzzard) [inline Mathlib/Algebra/Module/Torsion.lean:881]: This notation doesn't work with numerals, it seems:
```
ambiguous, possible interpretations 
  A[37] : AddSubgroup A
  
  A[37] : ?m.17
```
In general you might have better luck with some more unicodey square brackets. Perhaps better to get some other opinions on the Zulip? I'm reluctant to merge because I can't get the notation to work, but once this is fixed this is ready to go.

**Comment by wupr** [comment]
I've made a small change to the definition so now the def and notation take an integer `n`. Since the definition is currently tagged as reducible, lemmas on `Submodule.torsionBy` carry over. There are three lemmas for natural numbers `n`.

A trade-off of this low-effort approach is that there is no multiplicative version for `CommGroup`.

File: Mathlib/Algebra/Module/Torsion.lean (hunk 2 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Module/Torsion.lean:877]: The suggestion there is
```
scoped notation:max (priority := high) A"["n"]" => torsionBy A n
```
Does this solve the problems above?

File: Mathlib/Algebra/Module/Torsion.lean [hunk 3]
```diff
@@ -866,3 +863,36 @@ theorem isTorsion_iff_isTorsion_int [AddCommGroup M] :
...
+
+/-- The additive `n`-torsion subgroup for an integer `n`. -/
+@[reducible]
+def torsionBy : AddSubgroup A :=
+  (Submodule.torsionBy ℤ A n).toAddSubgroup
+
+@[inherit_doc]
+scoped notation:max A"["n"]" => torsionBy A n
+
+lemma torsionBy_negative_eq : A[-n] = A[n] := by
```
Comment (kbuzzard) [inline Mathlib/Algebra/Module/Torsion.lean:879]:
```suggestion
lemma torsionBy_neg : A[-n] = A[n] := by
```

File: Mathlib/Algebra/Module/Torsion.lean [hunk 4]
```diff
@@ -866,3 +863,36 @@ theorem isTorsion_iff_isTorsion_int [AddCommGroup M] :
...
+  ext a
+  simp
+
+variable {A} {n : ℕ}
+
+@[simp]
+lemma nsmul_torsionBy (x : A[n]) : n • x = 0 :=
```
Comment (kbuzzard) [inline Mathlib/Algebra/Module/Torsion.lean:886]: You've decided to make A[n] a term not a type, so shouldn't this lemma be about `x \in A[n]` rather than promoting it to a type? Or do you think you made a bad decision making it a term, and should instead make it `TorsionBy` and a type?

Comment (kbuzzard) [inline Mathlib/Algebra/Module/Torsion.lean:886]: You've decided to make A[n] a term not a type, so probably there should be a lemma be about `x \in A[n]` as well as this? And probably it should be called `torsionBy.nsmul` (perhaps one of the two variants should have a `'` at the end)

File: Mathlib/Algebra/Module/Torsion.lean [hunk 5]
```diff
@@ -866,3 +863,36 @@ theorem isTorsion_iff_isTorsion_int [AddCommGroup M] :
...
+  nsmul_eq_smul_cast ℤ n x ▸ Submodule.smul_torsionBy ..
+
+lemma mod_nsmul_torsionBy_eq_nsmul (m : A[n]) (s : ℕ) :
```
Comment (kbuzzard) [inline Mathlib/Algebra/Module/Torsion.lean:889]:
```suggestion
lemma torsionBy.mod_self_nsmul (m : A[n]) (s : ℕ) :
```
and again perhaps there should be a version for m \in A[n].

File: Mathlib/Algebra/Module/Torsion.lean (hunk 4 above)
Comment (wupr) [reply Mathlib/Algebra/Module/Torsion.lean:949]: I will add corresponding lemmas for `x ∈ A[n]` (which should be provable by simp). As for the naming, for consistency, should the existing `Submodule.smul_torsionBy` etc be moved into the `torsionBy` as well (in a separate PR)?

Comment (wupr) [reply Mathlib/Algebra/Module/Torsion.lean:949]: And does this also apply to `torsionBy_neg` and `moduleZModTorsionBy`, rendering `torsionBy.neg` and `torsionBy.moduleZMod`?

**Comment by kbuzzard** [comment]
Thanks!

bors merge

File: Mathlib/Algebra/Module/Torsion.lean (hunk 4 above)
Comment (kbuzzard) [reply Mathlib/Algebra/Module/Torsion.lean]: I am not the best person to talk to about naming conventions, unfortunately. I'd recommend you ask on the Zulip.

**Comment by kbuzzard** [comment]
The problem seems to be that `nsmul_eq_smul_cast` is now deprecated, so this now needs to be changed. @wupr please feel free to fix this up and then merge.

bors d+

**Comment by jcommelin** [comment]
@wupr Could you please fix up the PR and merge it?
